US09428469B2
N3-(3,5-dichlorophenyl)-N5-(4-(pyrrolidin-1-ylsulfonyl)benzyl)-1H-1,2,4-triazole-3,5-diamine (Compound 20)
To a solution of N3-(3,5-dichlorophenyl)-1H-1,2,4-triazole-3,5-diamine Intermediate 2 (100 mg, 410 μmol) in MeOH (3.5 ml) was added 4-(pyrrolidin-1-ylsulfonyl)benzaldehyde (118 mg, 492 μmol) followed by acetic acid (36.7 mg, 35 μl, 611 μmol). The reaction was stirred at room temperature for 15 minutes, 2-picoline borane complex (65.7 mg, 615 μmol) was added and the stirring was continued for 6 days. The reaction mixture was poured into 0.1N HCl solution (25 ml) to give a suspension, which was filtered to give a white solid as desired product (151 mg, 79% yield). MS +m/z: 467 (M+H)+

reactant | N3-(3,5-dichlorophenyl)-1H-1,2,4-triazole-3,5-diamine | ClC=1C=C(C=C(C1)Cl)NC1=NNC(=N1)N | C8H7Cl2N5
reactant | 4-(pyrrolidin-1-ylsulfonyl)benzaldehyde | 492 μmol, 118 mg | N1(CCCC1)S(=O)(=O)C1=CC=C(C=O)C=C1 | C11H13NO3S
reactant | acetic acid | 611 μmol, 35 μl, 36.7 mg | C(C)(=O)O | C2H4O2
reactant | HCl | 0.1N, 25 ml | Cl | ClH
solvent | MeOH | 3.5 ml | CO | CH4O
product | N3-(3,5-dichlorophenyl)-N5-(4-(pyrrolidin-1-ylsulfonyl)benzyl)-1H-1,2,4-triazole-3,5-diamine | 151 mg, 79% yield | ClC=1C=C(C=C(C1)Cl)NC1=NNC(=N1)NCC1=CC=C(C=C1)S(=O)(=O)N1CCCC1 | C19H20Cl2N6O2S
